US06635657B1
D. 1-tert-Butylpiperazine Dihydrobromide
To crude 3-[2-(tert-butylamino)ethyl]oxazolidin-2-one (1.18 g, 6.33 mmol) was added acetic acid (8.8 mL) and then 45% hydrobromic acid in acetic acid (19.5 mL). The reaction solution was stirred at room temperature for 3 d, poured into dichloromethane (250 mL), and filtered to give 1.87 g of a brown solid. The solid was heated at reflux in n-butanol for 2 d and the reaction mixture concentrated in vacuo. The residual solid was slurried in 3:1 diethyl ether:dichloromethane and filtered. The filtered solid was heated in ethanol, cooled to room temperature, and filtered to give 0.57 g (30%) of a white solid.

reactant | 3-[2-(tert-butylamino)ethyl]oxazolidin-2-one | 6.33 mmol, 1.18 g | C(C)(C)(C)NCCN1C(OCC1)=O | C9H18N2O2
reactant | hydrobromic acid | Br | BrH
reactant | dichloromethane | 250 mL | ClCCl | CH2Cl2
solvent | acetic acid | 19.5 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 8.8 mL | C(C)(=O)O | C2H4O2
product | 1-tert-Butylpiperazine Dihydrobromide | 1.87 g | Br.Br.C(C)(C)(C)N1CCNCC1 | InChI=1S/C8H18N2.2BrH/c1-8(2,3)10-6-4-9-5-7-10;;/h9H,4-7H2,1-3H3;2*1H
